US07622605B2
2-Chloro-4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]benzoic acid
The title compound was prepared analogously to example B(6): where methyl 2-chloro-4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]benzoate (example B(7)) was substituted in place of methyl 4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorobenzoate in that example. 1H NMR (300 MHz, CDCl3): δ 1.38-2.30 (m, 11H), 2.78-3.15 (m, 6H), 7.10 (s, 1H), 7.19 (d, J=1.58 Hz, 1H), 7.62 (d, J=1.56 Hz, 1H) 12.30 (s, 1H).

reactant | methyl 2-chloro-4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]benzoate | ClC1=C(C(=O)OC)C=CC(=C1)CCC1(OC(CC(C1)=O)=O)C1CCCC1 | C20H23ClO5
reactant | methyl 4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-fluorobenzoate | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C(=O)OC)C=C1)F | C20H23FO5
product | 2-Chloro-4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)CCC1(OC(CC(C1)=O)=O)C1CCCC1 | C19H21ClO5
